US05856556
(3S, 4R)-3-[(R)-1-Hydroxyethyl]-4-([(S)-1-[N-(p-nitrobenzyloxycarbonyl)acetimidoyl]pyrrolidin-3-ylthio]carbonylmethyl)-1-[2-methyl-1-(p-nitrobenzyloxycarbonyl)prop-1-enyl]2-azetidinone.
511 mg (0.62 mmole) of (3S, 4R)-3-[(R)-1-t-butyldimethylsilyloxyethyl]-4-([(S)-1-[N-(p-nitrobenzyloxycarbonyl)acetimidoyl]pyrrolidin-3-ylthio]carbonylmethyl)-1 -[2-methyl-1-(p-nitrobenzyloxycarbonyl)prop-1-enyl]-2-azetidinone were dissolved in 20 ml of acetonitrile. To this solution were added 176 mg (1.24 mmole) of boron trifluoride etherate, with stirring and ice-cooling. The reaction mixture was then left to stand at room temperature for 2.5 hours, after which it was diluted with ethyl acetate, washed with an aqueous solution of sodium bicarbonate and dried. The solvent was distilled off, to afford 462 mg of the title product.

reactant | (3S, 4R)-3-[(R)-1-t-butyldimethylsilyloxyethyl]-4-([(S)-1-[N-(p-nitrobenzyloxycarbonyl)acetimidoyl]pyrrolidin-3-ylthio]carbonylmethyl)-1 -[2-methyl-1-(p-nitrobenzyloxycarbonyl)prop-1-enyl]-2-azetidinone | 0.62 mmole, 511 mg | [Si](C)(C)(C(C)(C)C)O[C@H](C)[C@H]1C(N([C@@H]1CC(=O)S[C@@H]1CN(CC1)C(C)=NC(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])C(=C(C)C)C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])=O | C39H51N5O11SSi
reactant | boron trifluoride etherate | 1.24 mmole, 176 mg | B(F)(F)F.CCOCC
solvent | acetonitrile | 20 ml | C(C)#N | C2H3N
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (3S, 4R)-3-[(R)-1-Hydroxyethyl]-4-([(S)-1-[N-(p-nitrobenzyloxycarbonyl)acetimidoyl]pyrrolidin-3-ylthio]carbonylmethyl)-1-[2-methyl-1-(p-nitrobenzyloxycarbonyl)prop-1-enyl]2-azetidinone | 462 mg | O[C@H](C)[C@H]1C(N([C@@H]1CC(=O)S[C@@H]1CN(CC1)C(C)=NC(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])C(=C(C)C)C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])=O | C33H37N5O11S
